US04122272
3-Ethyl-2-methyl-6,7-dihydro-[5H]-thiazolo[3,2-a]pyrimidine (1.8 g., 0.01 mole) (prepared by basification of the hydrobromide salt with sodium carbonate) and cetyl bromide (3.3 g., 0.011 mole) were refluxed in acetonitrile solution for 16 hours. The solvent was evaporated and the residual oil solidified by stirring under dry ether at 0° C. Recrystallization from a mixture of acetonitrile and ether gave 8-cetyl-3-ethyl-2-methyl-6,7-dihydro[5H]thiazolo[3,2-a]pyrimidinium bromide, (0.92 g., 20%), m.p. 63°-66° (Found: C, 61.4; H, 9.6; N, 5.6. C25H47N2SBr requires C, 61.6; H, 9.7; N, 5.7%).

reactant | 3-Ethyl-2-methyl-6,7-dihydro-[5H]-thiazolo[3,2-a]pyrimidine | 0.01 mole, 1.8 g | C(C)C1=C(SC=2N1CCCN2)C | C9H14N2S
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | cetyl bromide | 0.011 mole, 3.3 g | C(CCCCCCCCCCCCCCC)Br | C16H33Br
solvent | acetonitrile | C(C)#N | C2H3N
product | 8-cetyl-3-ethyl-2-methyl-6,7-dihydro[5H]thiazolo[3,2-a]pyrimidinium bromide | 0.92 g | [Br-].C(CCCCCCCCCCCCCCC)N1C2=[N+](CCC1)C(=C(S2)C)CC | InChI=1S/C25H47N2S.BrH/c1-4-6-7-8-9-10-11-12-13-14-15-16-17-18-20-26-21-19-22-27-24(5-2)23(3)28-25(26)27;/h4-22H2,1-3H3;1H/q+1;/p-1
